US08008307B2
Step d: {(1R,2R,4S)-2-hydroxy-4-[(6-{[(1S,2R)-2-methoxy-2,3-dihydro-1H-inden-1-yl]-amino}pyrimidin-4-yl)amino]cyclopentyl}methyl sulfamate (Compound I-47)
A solution of {(1R,2R,4S)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(6-{[(1S,2R)-2-methoxy-2,3-dihydro-1H-inden-1-yl]amino}pyrimidin-4-yl)amino]cyclopentyl}methanol (0.112 g, 0.231 mmol) (azetroped with toluene) and pyridine (0.0374 mL, 0.462 mmol) in anhydrous acetonitrile (2.3 mL) was cooled to 0° C. A 2 N solution of chlorosulfonamide in acetonitrile (0.116 mL) was added dropwise and the reaction was stirred for 3 h. Additional 2 N solution of chlorosulfonamide in acetonitrile (0.026 mL) and pyridine (0.0041 g, 0.052 mol) were added and the reaction was stirred for 1 h then quenched with methanol. The solution was concentrated in vacuo and purified by flash chromatography (0 to 10% MeOH/DCM) to afford the title compound as a white solid (0.059 g, 57%). 1H NMR (CD3OD, 400 MHz, δ): 8.26 (s, 1H); 8.01 (s, 1H); 7.26-7.16 (m, 3H); 5.70 (s, 1H); 5.47-5.33 (bs, 1H); 4.35 (t, J=4.5 Hz, 1H); 4.31 (d, J=7.5 Hz, 1H); 4.28 (d, J=7.5 Hz, 1H); 4.25-4.21 (m, 1H); 4.15-4.11 (dd, J=7.3 Hz; J=2.5 Hz, 1H); 3.36 (s, 3H); 3.16-3.00 (m, 2H); 2.54-2.45 (m, 1H); 2.26-2.19 (m, 1H); 2.10-1.98 (m, 1H); 1.87-1.78 (m, 1H); 1.77-1.69 (m, 1H). LC/MS: Rt=1.11 min, ES+ 450 (FA standard).

reactant | {(1R,2R,4S)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-[(6-{[(1S,2R)-2-methoxy-2,3-dihydro-1H-inden-1-yl]amino}pyrimidin-4-yl)amino]cyclopentyl}methanol | 0.231 mmol, 0.112 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@H](C[C@@H](C1)NC1=NC=NC(=C1)N[C@@H]1[C@@H](CC2=CC=CC=C12)OC)CO | C26H40N4O3Si
reactant | pyridine | 0.462 mmol, 0.0374 mL | N1=CC=CC=C1 | C5H5N
reactant | chlorosulfonamide | ClS(=O)(=O)N | ClH2NO2S
reactant | pyridine | 0.052 mol, 0.0041 g | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 2.3 mL | C(C)#N | C2H3N
solvent | acetonitrile | 0.116 mL | C(C)#N | C2H3N
solvent | acetonitrile | 0.026 mL | C(C)#N | C2H3N
product | {(1R,2R,4S)-2-hydroxy-4-[(6-{[(1S,2R)-2-methoxy-2,3-dihydro-1H-inden-1-yl]-amino}pyrimidin-4-yl)amino]cyclopentyl}methyl sulfamate | 0.059 g, 57% | S(N)(OC[C@@H]1[C@@H](C[C@H](C1)NC1=NC=NC(=C1)N[C@@H]1[C@@H](CC2=CC=CC=C12)OC)O)(=O)=O | C20H27N5O5S
